US04532248
Methyl 1,4-dihydro-4-phenyl-2,3,6-trimethylpyridine-5-carboxylate
24.1 g (80 millimols) of methyl 1,4-dihydro-2,6-dimethyl-4-phenyl-pyridine-3,5-dicarboxylate were introduced in portions, at 60° C. and while stirring, into a solution of 12.2 g (320 millimols) of LiAlH4 in 400 ml of absolute tetrahydrofuran (N2 atmosphere), and the mixture was stirred for a further 6 to 7 hours at 60° C. After the mixture had cooled, 19.7 ml of ethyl acetate, 15.9 ml of water, 19.6 ml of 10N NaOH and 15.9 ml of water were successively added dropwise. The mixture was then filtered under suction, the residue was rinsed thoroughly with ether, and the filtrate was evaporated down in vacuo. The syrupy residue was dissolved in 50 ml of ether, and the solution was left in a cold place to crystallize giving 7.4 g of the above compound (36% of theory). After recrystallization from acetonitrile, colorless prisms; melting point 120° C., were obtained.

reactant | methyl 1,4-dihydro-2,6-dimethyl-4-phenyl-pyridine-3,5-dicarboxylate | 80 millimols, 24.1 g | CC=1NC(=C(C(C1C(=O)OC)C1=CC=CC=C1)C(=O)[O-])C
reactant | LiAlH4 | 320 millimols, 12.2 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | ethyl acetate | 19.7 ml | C(C)(=O)OCC | C4H8O2
reactant | NaOH | 10N, 19.6 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | water | 15.9 ml | O | H2O
solvent | water | 15.9 ml | O | H2O
product | Methyl 1,4-dihydro-4-phenyl-2,3,6-trimethylpyridine-5-carboxylate | 7.4 g, 36% | C1(=CC=CC=C1)C1C(=C(NC(=C1C(=O)OC)C)C)C | C16H19NO2
